US07700589B2
N-[1-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethylamino}-1-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-meth-(Z)-ylidene]-cyanamide
A mixture of 390 mg (1.01 mmol) (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(1-methylpiperidin-4-yl)-piperazin-1-yl]-propan-1-one, 270 mg (1.01 mmol) diphenylcyano-carbonimidate and 50 mL DCM was stirred for 4 h at RT and then evaporated down under reduced pressure. The residue was combined with 30 mL acetonitrile and 270 mg (1.10 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one and refluxed for 14 h. The reaction mixture was evaporated down under reduced pressure and the residue was purified by chromatography. The product fractions were evaporated down, the residue was triturated with PE and suction filtered.

reactant | (R)-2-amino-3-(3,4-diethyl-phenyl)-1-[4-(1-methylpiperidin-4-yl)-piperazin-1-yl]-propan-1-one | 1.01 mmol, 390 mg | N[C@@H](C(=O)N1CCN(CC1)C1CCN(CC1)C)CC1=CC(=C(C=C1)CC)CC | C23H38N4O
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 1.10 mmol, 270 mg | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-[1-{(R)-1-(3,4-diethyl-benzyl)-2-[4-(1-methyl-piperidin-4-yl)-piperazin-1-yl]-2-oxo-ethylamino}-1-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-meth-(Z)-ylidene]-cyanamide | C(C)C=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCN(CC2)C)N/C(/N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=N/C#N)C=CC1CC | C39H55N9O2
